US06747048B2
Compound 50a: 4-chlorosulfonyl-2-isopropylanisole
To a solution of 2-isopropylanisole (0.40 g, 2.66 mmol) in CH2Cl2 (9 mL) cooled with an ice water bath was added slowly chlorosulfonic acid (4 mL). After 1.5 h of cooling, the mixture was poured into a flask containing ice (25 g). The product was extracted with CH2Cl2 (50 mL). The organic extract was washed with brine (25 mL), dried (Na2SO4), filtered and concentrated in vacuo to afford 0.62 g of grayish oil as crude product. The crude product was purified by chromatography using the ISCO Combiflash SQ16x system (0 to 20% EtOAc in hexane, 20 min gradient, 35 g Redisep silica gel column) to give 0.56 g (84%) of compound 50a as a clear oil.

reactant | 2-isopropylanisole | 2.66 mmol, 0.40 g | C(C)(C)C1=C(C=CC=C1)OC | C10H14O
reactant | chlorosulfonic acid | 4 mL | ClS(=O)(=O)O | ClHO3S
solvent | CH2Cl2 | 9 mL | C(Cl)Cl | CH2Cl2
product | 4-chlorosulfonyl-2-isopropylanisole | 0.62 g | ClS(=O)(=O)C1=CC(=C(C=C1)OC)C(C)C | C10H13ClO3S
